US04730008
N,N-Dipropyl-4-iodobenzamide
as an orange oil (11.51 g) t.l.c. (ER) Rf 0.48 was prepared from 4-iodobenzoyl chloride (10.0 g) and dipropylamine (4.10 g) according to the method of Intermediate 20.

reactant | 4-iodobenzoyl chloride | 10.0 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | dipropylamine | 4.10 g | C(CC)NCCC | C6H15N
product | N,N-Dipropyl-4-iodobenzamide | C(CC)N(C(C1=CC=C(C=C1)I)=O)CCC | C13H18INO
